US08304548B2
5-(2-Pyridyl)-1-phenyl-1,2-dihydropyridine-2-one (300 g), N-bromosuccinimide (236.5 g) and N,N-dimethylformamide (1.8 L) were placed in a 10-L reactor, and the reaction mixture was stirred at 30° C. (external temperature) in a nitrogen stream for 3 hours and 15 minutes. 2-Propanol (4.2 L) was added dropwise to the reaction mixture over a period of 9 minutes, followed by adding thereto water (2.1 L) over a period of 7 minutes. The resulting mixture was heated at 85° C. (external temperature) with stirring. After confirming the dissolution of the contents, the resulting solution was stirred at an external temperature of 55° C. for 1 hour. Thereafter, the solution was stirred at 40° C. (external temperature) for another 22 minutes, at 30° C. (external temperature) for further another 23 minutes, and then at 10° C. (external temperature) for still another 15 hours and 15 minutes. The reaction mixture was filtered and the precipitate was washed with 50% 2-propanol-water (2.4 L) and then dried under reduced pressure (60° C., 6 hours) to obtain 341.45 g of 3-bromo-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridine-2-one.

reactant | 5-(2-Pyridyl)-1-phenyl-1,2-dihydropyridine-2-one | 300 g | N1=C(C=CC=C1)C=1C=CC(N(C1)C1=CC=CC=C1)=O | C16H12N2O
reactant | N-bromosuccinimide | 236.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N,N-dimethylformamide | 1.8 L | CN(C=O)C | C3H7NO
reactant | 2-Propanol | 4.2 L | CC(C)O | C3H8O
solvent | water | 2.1 L | O | H2O
product | 3-bromo-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridine-2-one | 341.45 g, Yield: 86.4% | BrC=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C16H11BrN2O
